US04797129
Preparation of 2,4-dichloro-6-methylaminonitrobenzene
0.150 mole (34 g) of 2,4,6-trichloronitrobenzene is added portionwise, at ambient temperature, to 300 ml of a 30% strength solution of methylamine in absolute ethanol. After stirring for 23 hours at ambient temperature, a precipitate, consisting essentially of 4-chloro-2-methylamino-6-methylaminonitrobenzene, is removed by filtration. The filtrate is evaported to dryness under reduced pressure. 800 ml of concentrated hydrochloric acid are added to the dry extract obtained in this manner. The insoluble fraction is removed by filtration. After dilution of the filtrate with 650 ml of water, the expected product precipitates. It is washed with water and is then dried under vacuum in the presence of phosphorus pentoxide. After recrystallization from isopropanol and then from absolute ethanol, it melts at 120° C.

reactant | 2,4,6-trichloronitrobenzene | 0.150 mole, 34 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | methylamine | CN | CH5N
reactant | 4-chloro-2-methylamino-6-methylaminonitrobenzene | ClC1=CC(=C(C(=C1)NC)[N+](=O)[O-])NC | C8H10ClN3O2
solvent | ethanol | C(C)O | C2H6O
product | 2,4-dichloro-6-methylaminonitrobenzene | ClC1=C(C(=CC(=C1)Cl)NC)[N+](=O)[O-] | C7H6Cl2N2O2
